US04900731
4-(Hexadecyloxy)-1,2-Butanediol
A solution of 40 g of [2-(hexadecyloxy)ethyl] oxirane in 270 ml of glacial acetic acid containing 0.265 g of p-toluenesulfonic acid was stirred at reflux for 4.5 hours. The acetic acid was removed, the residue dissolved in toluene the toluene removed and this residue dissolved in 300 ml of methanol. A solution of 17.9 g of sodium hydroxide in 18.5 ml of water was added, the mixture was stirred 1/2 hour and the solvent removed. The solid was dissolved in a mixture of ether and water. The ether layer was washed twice with saline, dried and filtered. The filtrate was warmed to dissolve the solid which formed, then concentrated to about 400 ml and allowed to stand at room temperature. Petroleum ether was added and the resulting solid collected, giving 32 g of the desired compound, mp 60°-61° C.

reactant | [2-(hexadecyloxy)ethyl] oxirane | 40 g | C(CCCCCCCCCCCCCCC)OCCC1OC1 | C20H40O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetic acid | 270 ml, 0.265 g | C(C)(=O)O | C2H4O2
product | 4-(Hexadecyloxy)-1,2-Butanediol | 32 g | C(CCCCCCCCCCCCCCC)OCCC(CO)O | C20H42O3
